US04283381
At maximally 10° C., 67.7 g (0.6 mol) of chloroacetyl chloride is added dropwise under agitation within 20 minutes to a solution of 119.1 g (0.2 mol) of 5-amino-2,4,6-triiodoisophthalic acid dichloride in 400 ml of dimethylacetamide; the mixture is further stirred for 1 hour under ice cooling and then overnight at room temperature. The reaction mixture is then treated with 6 l of water, the thus-produced precipitate is vacuum-filtered and dissolved in 3.5 l of ethyl acetate. The ethyl acetate solution is washed neutral with 400 ml of saturated NaHCO3 solution and twice with water, dried with Na2SO4, and concentrated under vacuum. The residue is treated with 800 ml of ether and dried under vacuum at 50° C., thus obtaining 100.8 g (75% of theory) of 5-chloroacetamido-2,4,6-triiodoisophthalic acid dichloride, m.p. 254°-256° C. (decomposition).

reactant | chloroacetyl chloride | 0.6 mol, 67.7 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 5-amino-2,4,6-triiodoisophthalic acid dichloride | 0.2 mol, 119.1 g | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | water | 6 l | O | H2O
solvent | dimethylacetamide | 400 ml | CC(=O)N(C)C | C4H9NO
product | 5-chloroacetamido-2,4,6-triiodoisophthalic acid dichloride | 100.8 g, 75% | ClCC(=O)NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C10H3Cl3I3NO3
